US07435837B2
(±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}propan-2-amine
The title compound was prepared (0.065 g, 66%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-([5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.14 g, 0.3 mmol) and isopropylamine (0.18 g, 3.0 mmol). mp 134-135° C.

reactant | [5-fluoro-7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.3 mmol, 0.14 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C=CC=C2Cl)Cl)F | C22H17Cl2FO4S
reactant | isopropylamine | 3.0 mmol, 0.18 g | C(C)(C)N | C3H9N
product | (±)-N-{[7-(2,6-dichlorophenyl)-5-fluoro-2,3-dihydro-1-benzofuran-2-yl]methyl}propan-2-amine | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2CC(OC21)CNC(C)C)F | C18H18Cl2FNO
